data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2401,2666,[CH3:17][NH:18][C:19](=[O:20])[CH:21]=[O+:22][C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[CH:21]([C:19]([NH:18][CH3:17])=[O:20])[O:22][C:23]3([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,13.023403583436222,-70.00334431741436
1807,1999,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][C-:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([CH3:18])[O:19][C:20]2([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,10.288074104973528,-34.72743673478865
2508,2787,[CH3:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[C:33]([CH3:34])=[O:35].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:19][C:18]3([C:16]([CH3:15])=[O:17])[C:33]([CH3:34])=[O:35],water,298.15,22.550056398278308,-42.3660226510374
2249,2494,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24]([C:25]#[N:26])=[O+:27][C-:28]([C:29]#[N:30])[C:31]#[N:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:24]([CH3:23])([C:25]#[N:26])[O:27][C:28]2([C:29]#[N:30])[C:31]#[N:32],water,298.15,18.6338534152664,-50.104521865414426
5069,5757,[CH3:10][O:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:23]([CH3:24])([C:25](=[O:26])[O:27][CH3:28])[N:21]([CH3:22])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,38.33548479933703,-13.971896650814609
1575,1743,[CH3:15][O:16][C:17](=[O:18])[C-:19]([N+:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:22]([CH3:23])=[O:24])[N:20]=[N:21]2,water,298.15,27.777372328027354,-22.182614466513115
3042,3405,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[c:8]1[o:9][c:10](=[O:11])[c-:12]([CH3:13])[o+:14]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:12]2([CH3:13])[C:10](=[O:11])[O:9][C:8]1([C:6]([CH3:5])=[O:7])[O:14]2,water,298.15,12.317695605891654,-30.72463159587155
5031,5719,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:20]([C:21]#[N:22])[NH:19][C:18]2([C:16]([CH3:15])=[O:17])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,28.0650835447499,6.131250496443144
4548,5188,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:13]([C:11]([CH3:10])=[O:12])[O:14][C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,19.866777997286608,-35.123769638143465
1879,2083,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][NH+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,13.298929992998865,-26.109352358108502
